US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 4-(5-bromo-2-fluorophenyl)-3,5-difluoropyridine as described in Example 6 to give 2-{3-[3-(3,5-difluoropyridin-4-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (80 mg, 40%): δH (360 MHz, d6-DMSO) 1.57 (6H, s), 7.22 (1H, t, J 7), 7.66 (1H, t, J 9), 7.83 (1H, s), 7.94 (2H, dd, J 6 and 2), 8.37 (1H, d, J 7), 8.75 (2H, s); m/z (ES+) 402 [MH+].

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 4-(5-bromo-2-fluorophenyl)-3,5-difluoropyridine | BrC=1C=CC(=C(C1)C1=C(C=NC=C1F)F)F | C11H5BrF3N
product | 2-{3-[3-(3,5-difluoropyridin-4-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol | 80 mg, 40% | FC=1C=NC=C(C1C=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F | C21H15F4N3O
